US07829580B2
(E)-3-{[1-(Carboxymethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1145)
Following a procedure similar to that described in Example 134, (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-4-sulfanylpiperidine hydrochloride (82.8 mg) was treated with hydrochloric acid and the residue obtained by concentration of the reaction mixture was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 25/75, v/v) to afford the title compound (76.0 mg, yield: 95%) as a colourless amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 82.8 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NN(C1)CC(=O)OC)=O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (E)-3-{[1-(Carboxymethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 76.0 mg, yield: 95% | Cl.C(=O)(O)CN1N=NC(=C1)\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C21H23FN4O3S.ClH/c22-17-4-2-1-3-16(17)20(21(29)13-5-6-13)25-8-7-18(30)14(10-25)9-15-11-26(24-23-15)12-19(27)28;/h1-4,9,11,13,18,20,30H,5-8,10,12H2,(H,27,28);1H/b14-9+;
